US04772600
(R)-2-(4-Chlorophenyl)-N,N,α-trimethyl-3H-imidazo[4,5-b]pyridine-3-acetamide
A solution of (R)-2-(4-chlorophenyl)-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0166 mole), 1,1'-carbonyldiimidazole (2.69 g, 0.0166 mole) and dry tetrahydrofuran (100 ml) was stirred at room temperature for 2.25 hours with a stream of nitrogen bubbling through it. A solution of dimethylamine in tetrahydrofuran (22 ml of a 2.29M solution, 0.050 mole) was added and the reaction mixture was heated at 45° C. for two days under nitrogen. The solvents were removed under reduced pressure and the residue was partitioned between water and ethyl acetate. The ethyl acetate layer was washed twice with water, twice with a 5% potassium hydroxide solution and twice again with water. It was then dried over magnesium sulfate, charcoaled, filtered, and evaporated to a residue which was dissolved in hot isopropyl ether, filtered, and cooled to room temperature. The resulting solid was collected by filtration and dried under high vacuum at 50° C. to give 2.61 g (48%) of title compound, mp 124°-127° C.

reactant | (R)-2-(4-chlorophenyl)-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0166 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1[C@@H](C(=O)O)C | C15H12ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0166 mole, 2.69 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (R)-2-(4-Chlorophenyl)-N,N,α-trimethyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 2.61 g, 48% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1[C@@H](C(=O)N(C)C)C | C17H17ClN4O
